US07968536B2
To a solution of compound ethyl 2-aminoacetate (30.0 g, 0.24 mol) in water (50 mL) and 36% HCl (36 mL) was added dropwise a solution of NaNO2 in water (100 mL) at −5° C. The reaction mixture was extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered and concentrated to give compound N.3, (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate (17.4 g, 42.1%). 1H NMR (DMSO-d6) δ 13.41 (s, 1H), 4.25 (q, 2H), 1.24 (t, 3H).

reactant | ethyl 2-aminoacetate | 0.24 mol, 30.0 g | NCC(=O)OCC | C4H9NO2
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | HCl | 36 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate | 17.4 g, 42.1% | Cl\C(\C(=O)OCC)=N/O | C4H6ClNO3
